US07985751B2
1-[2-(3-Methoxy-4-hydroxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride
To a solution of 1-[2-(3-methoxy-4-hydroxyphenyl)ethyl]-4-(3-phenylpropyl)-piperazine in ethanol is added 6 N hydrogen chloride aqueous solution until the pH is 3. The resulting solution is allowed to stand at ambient temperature overnight. The resultant crystals were filtered, washed with cold ethanol, and dried to give 61 mg of the title compound (57%).

reactant | 1-[2-(3-methoxy-4-hydroxyphenyl)ethyl]-4-(3-phenylpropyl)-piperazine | COC=1C=C(C=CC1O)CCN1CCN(CC1)CCCC1=CC=CC=C1 | C22H30N2O2
reactant | hydrogen chloride | 6 N | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 1-[2-(3-Methoxy-4-hydroxyphenyl)ethyl]-4-(3-phenylpropyl)piperazine dihydrochloride | 61 mg, 57% | Cl.Cl.COC=1C=C(C=CC1O)CCN1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C22H30N2O2.2ClH/c1-26-22-18-20(9-10-21(22)25)11-13-24-16-14-23(15-17-24)12-5-8-19-6-3-2-4-7-19;;/h2-4,6-7,9-10,18,25H,5,8,11-17H2,1H3;2*1H
